US08232390B2
Step 3: 13-cyclohexyl-6,7-dihydro-4H-indolo[4′,3′:3,4,5]azepino[1,2-a]indole-10-carboxylic acid
To a solution of methyl 13-cyclohexyl-6-oxo-6,7-dihydro-4H -indolo[4′,3′:3,4,5]azepino[1,2-a]indole-10-carboxylate in THF (0.15 M), 20 eq of BH3.Me2S (2 M solution in THF) were added and the mixture was stirred overnight at RT. The solution was carefully quenched by adding 1.25 N HCl in MeOH until effervescence subsided. Then the volatiles were driven off by boiling the mixture to dryness. The residue was dissolved in MeOH (0.06 M) and 10 eq of 1N NaOH (aq) were added. The solution stirred at 60° C. for 2 h before removing volatiles in vacuo. The crude was then purified by prep RP-HPLC (stationary phase: column WATERS X-TERRA prep. C18, 5 microns. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound (12% yield from methyl 3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H,1′H-2,4′-biindole-6-carboxylate). 1H NMR (400 MHz, DMSO-d6+TFA, 300 K) δ 8.20 (s, 1H), 7.85 (d, J 8.4, 1H), 7.65 (d, J 8.4, 1H), 7.45 (d, J 7.9, 1H), 7.30-7.10 (m, 3H), 5.20-5.00 (m, 1H), 4.10-3.90 (m, 1H), 3.30-3.10 (m, 2H), 2.80-2.70 (m, 1H), 2.10-1.80 (m, 3H), 1.70-1.50 (m, 2H), 1.50-1.30 (m, 3H), 1.30-1.00 (m, 2H); MS (ES+) m/z 385 (M+H)+.

reactant | methyl 13-cyclohexyl-6-oxo-6,7-dihydro-4H -indolo[4′,3′:3,4,5]azepino[1,2-a]indole-10-carboxylate | C1(CCCCC1)C1=C2N(C=3C=C(C=CC13)C(=O)OC)CC(C=1C3=C2C=CC=C3NC1)=O | C26H24N2O3
reactant | Me2S | 2 M | S(C)C | C2H6S
reactant | NaOH | 1N, 10 eq | [OH-].[Na+]
solvent | THF | 0.15 M | C1CCOC1 | C4H8O
product | 13-cyclohexyl-6,7-dihydro-4H-indolo[4′,3′:3,4,5]azepino[1,2-a]indole-10-carboxylic acid | 12% yield | C1(CCCCC1)C1=C2N(C=3C=C(C=CC13)C(=O)O)CCC=1C3=C2C=CC=C3NC1 | C25H24N2O2
